US03941803
In the manner given in Preparation 1, 5-(trifluoromethyl)-2-aminobenzophenone is refluxed with hydrazine hydrate in diethylene glycol to give 5-(trifluoromethyl)-2-aminobenzophenone hydrazone.

reactant | 5-(trifluoromethyl)-2-aminobenzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N)(F)F | C14H10F3NO
reactant | hydrazine hydrate | O.NN
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 5-(trifluoromethyl)-2-aminobenzophenone hydrazone | FC(C=1C=CC(=C(C(C2=CC=CC=C2)=NN)C1)N)(F)F | C14H12F3N3
